US04021479
4-(2',4'-Dichloro-4-biphenylyl)-butyric acid
Prepared analogous to Example 9 from 4-(2',4'-dichloro-4-biphenylyl)-4-hydroxy-butyric acid. Melting point of the cyclohexylamine salt: 154°-155° C. (from water).

reactant | 4-(2',4'-dichloro-4-biphenylyl)-4-hydroxy-butyric acid | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H14Cl2O3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | water | O | H2O
product | 4-(2',4'-Dichloro-4-biphenylyl)-butyric acid | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)CCCC(=O)O | C16H14Cl2O2
